US04464300
9 g of 1-bromo-8-chloro-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1]benzazepine are stirred at 140° for 22 hours in 263 ml of 85% phosphoric acid. The mixture is poured on to 1.5 kg of ice water and neutralized with 28% sodium hydroxide solution. The product is extracted with chloroform. The residue from the chloroform extracts is chromatographed on 300 g of silica gel. Impurities are separated by elution with chloroform. By elution with chloroform which contains 2% or 4% ethanol, crystallization of the resulting material from diethyl ether/diisopropyl ether and recrystallization from ethyl acetate there is obtained 8-chloro-6-(2-chlorophenyl)-2,4-dihydro-1H-s-triazolo[4,3-a][1]benzazepin-1-one of melting point 250°-251°.

reactant | 1-bromo-8-chloro-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1]benzazepine | 9 g | BrC1=NN=C2N1C1=C(C(=CC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C17H10BrCl2N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | phosphoric acid | 263 ml | P(O)(O)(O)=O | H3O4P
product | 8-chloro-6-(2-chlorophenyl)-2,4-dihydro-1H-s-triazolo[4,3-a][1]benzazepin-1-one | ClC=1C=CC2=C(C(=CCC=3N2C(NN3)=O)C3=C(C=CC=C3)Cl)C1 | C17H11Cl2N3O
